US07078405B2
6-Chloro-4-(2,4-dimethylphenyl)-3-pyridazineamine
Ethanol (8 mL), a 2M aqueous sodium carbonate solution (4 mL), 2,4-dimethylbenzeneboric acid (650 mg, 4.3 mmol) and tetrakistriphenylphosphine palladium complex (456 mg, 0.39 mmol) were added to a solution of 3-amino-4-bromo-6-chloropyridazine (822 mg, 3.9 mmol) in toluene (40 mL), and the mixture was heated at 100° C. for 2 hours. Water was added thereto, which was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:3) to give the title compound (759 mg, 82%) as a pale brown powder.

reactant | Ethanol | 8 mL | C(C)O | C2H6O
reactant | sodium carbonate | 2M, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-amino-4-bromo-6-chloropyridazine | 3.9 mmol, 822 mg | NC=1N=NC(=CC1Br)Cl | C4H3BrClN3
reactant | Water | O | H2O
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-4-(2,4-dimethylphenyl)-3-pyridazineamine | 759 mg, 82% | ClC1=CC(=C(N=N1)N)C1=C(C=C(C=C1)C)C | C12H12ClN3
